US04814445
7-Hydroxy-9a-methoxymitosane.
Mitomycin C (2.2 g, 6.6 mmoles) was dissolved in 140 ml 0.1N methanolic NaOH (50%) and the reaction mixture was stirred at room temperature for 30 hours. The solution was then adjusted to ca. pH 4.0 with 1N HCl and extracted with ethyl acetate (4×500 ml). The combined ethyl acetate extracts were dried (Na2SO4) and evaporated under reduced pressure at about 30° to 35° C. to obtain a solid residue, which upon dissolving in ether and treating with excess hexane afforded a purple precipitate. The precipitate was collected and air dried to afford the title compound as a fine purple powder (1.4 g, 63%).

reactant | Mitomycin C | 6.6 mmoles, 2.2 g | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)N | C15H18N4O5
reactant | HCl | 1N | Cl | ClH
reactant | hexane | CCCCCC | C6H14
reactant | NaOH | 0.1N, 140 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 7-Hydroxy-9a-methoxymitosane | 1.4 g, 63% | CC1=C(C2=C([C@H]([C@@]3(N2C[C@H]4[C@@H]3N4)OC)COC(=O)N)C(=O)C1=O)O | C15H17N3O6
